US04117168
Preparation of Bis(p-chlorophenyl)methyl n-butyl sulfide
The procedure described for making bis(p-chlorophenyl)methyl methyl sulfide was followed except that n-butyl mercaptan was used. The product obtained was greater than 90 percent pure.

reactant | bis(p-chlorophenyl)methyl methyl sulfide | CSC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H12Cl2S
reactant | n-butyl mercaptan | C(CCC)S | C4H10S
product | Bis(p-chlorophenyl)methyl n-butyl sulfide | C(CCC)SC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H18Cl2S
